US07842836B2
(2,3-Difluoro-5-methoxy-6-nitro-phenyl)-(2-fluoro-4-iodo-phenyl)-amine
A stirred solution of (2-fluoro-4-iodo-phenyl)-(2,3,5-trifluoro-6-nitro-phenyl)-amine (1.23 gm, 3 mmol) in dry THF (25 ml) was cooled to −78° C. under nitrogen, and a solution of 25% sodium methoxide (0.68 ml, 0.3 mmol) was added slowly. The reaction mixture was allowed to warm to room temperature, and stirring was continued for another 16 hours. TLC indicated incomplete reaction. Ethyl acetate (100 ml) was added to the reaction mixture, and the mixture was washed with water. The organic layer was dried over sodium sulfate and further purified by column chromatography to provide a yellow solid (0.6 gm, yield: 47.6%).

reactant | (2-fluoro-4-iodo-phenyl)-(2,3,5-trifluoro-6-nitro-phenyl)-amine | 3 mmol, 1.23 gm | FC1=C(C=CC(=C1)I)NC1=C(C(=CC(=C1[N+](=O)[O-])F)F)F | C12H5F4IN2O2
reactant | sodium methoxide | 0.3 mmol, 0.68 ml | C[O-].[Na+]
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (2,3-Difluoro-5-methoxy-6-nitro-phenyl)-(2-fluoro-4-iodo-phenyl)-amine | 0.6 gm, yield: 47.6% | FC1=C(C(=C(C=C1F)OC)[N+](=O)[O-])NC1=C(C=C(C=C1)I)F | C13H8F3IN2O3
